Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine / Amitriptyline / Prilosec OTC / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ speaking female with HTN, CAD s/p MI, HL, 
and vascular cognitive impairment who presents with nausea and 
vomiting.  
.  
She reports feeling well yesterday. At 2:30AM this morning, she 
awoke with the acute onset of nausea and vomiting. She describes 
nonbloody nonbilious vomit x3. Her family called EMS and she had 
another episode in the ED. Denies abd pain, diarrhea, 
constipation, or blood in stool/vomit. Denies dysuria. She has 
had no recent changes in her appetite and yesterday she states 
that was in her normal state of health. Denies recent changes in 
food intake (although did eat fish soup that was three days old 
yesterday).  
.  
In the ED, initial vitals were 97.3 64 159/84 16 100%. She was 
given zofran and no IVF. Labs were notable for a lipase of 88, 
alk phos 108, Hct 35.4 (from baseline of ___, troponin <0.01, 
Ca ___. Most recent vitals 98.3 74 115/47 16 98%RA.  
.  
On the floor, the patient denies nausea, abdominal pain. She 
does have a mild stuffy nose that she states is chronic. She 
denies cough, SOB, myalgias or fatigue. 

 
Past Medical History:
HTN
Hyperlipidemia
CAD s/p MI in ___
Headaches
Nephrolithiasis
Cataracts
Otitis media
Syncope ?sick sinus syndrome
s/p CCY 
 
Social History:
___
Family History:
Mother deceased at age ___ from breast cancer.
Father deceased at age ___. Son deceased at age ___ from heart
attack. 
 
Physical Exam:
Admission Exam:
Vitals: 100.0 152/60 78 18 99% RA; patient not orthostatic
GA: AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: Mild crackles in bases bilaterally. Otherwise clear with 
good air movement.
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  
Extremities: wwp, no edema. DPs, PTs 2+.  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___ (biceps, achilles, patellar). sensation intact to LT, 
pain, temperature, vibration, proprioception. cerebellar fxn 
intact (FTN, HTS). gait WNL. 

Discharge Exam:
Vitals: 97.1 134/50 64 16 97% RA
GA: AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: Mild crackles in bases bilaterally. Otherwise clear with 
good air movement.
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  
Extremities: wwp, no edema. DPs, PTs 2+. 

 
Pertinent Results:
Admission Labs:
___ 06:25AM   GLUCOSE-116* UREA N-39* CREAT-1.1 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-28 ANION GAP-15
___ 06:25AM   ALT(SGPT)-14 AST(SGOT)-28 ALK PHOS-108* TOT 
BILI-0.4
___ 06:25AM   LIPASE-88*
___ 06:25AM   ALBUMIN-4.7 CALCIUM-10.6* PHOSPHATE-3.0 
MAGNESIUM-2.2
___ 06:25AM   WBC-10.4# RBC-4.47# HGB-11.8* HCT-35.4* 
MCV-79*# MCH-26.3*# MCHC-33.2 RDW-15.6*
___ 06:25AM   NEUTS-93.2* LYMPHS-4.3* MONOS-2.1 EOS-0.5 
BASOS-0

Discharge Labs:
___ 08:05AM BLOOD WBC-3.5* RBC-3.54* Hgb-9.3* Hct-28.1* 
MCV-79* MCH-26.3* MCHC-33.2 RDW-15.6* Plt ___
___ 08:05AM BLOOD Glucose-84 UreaN-23* Creat-0.9 Na-138 
K-3.7 Cl-109* HCO3-22 AnGap-11
___ 08:05AM BLOOD ALT-16 AST-29 LD(LDH)-167 AlkPhos-69 
TotBili-0.2
___ 08:05AM BLOOD Lipase-31
___ 08:05AM BLOOD Calcium-9.1 Phos-2.2* Mg-2.0

Microbiology:
___ 10:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

___ 6:50 pm Influenza A/B by ___
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Negative for Influenza B. 

___ 7:18 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

Imaging:
CXR: FINDINGS: There is no pneumonia. There is no pleural 
effusion or 
pneumothorax. There is mild cardiomegaly with a left ventricular 

configuration. A right lower lobe granuloma is stable since 
___.  
The thoracic aorta is tortuous. Hilar silhouettes are within 
normal limits. 
  
IMPRESSION: 
1. No pneumonia. 
2. Stable mild cardiomegaly with a left ventricular 
configuration. 

 
Brief Hospital Course:
___ year old ___ speaking female with HTN, CAD s/p MI, HL, 
and vascular cognitive impairment who presented with nausea and 
vomiting. 
.
#. Nausea/Vomiting: The patient likely had a viral 
gastroenteritis and she continued to have mild nausea with some 
vomiting while inpatient. She was cleared by physical therapy 
and was able to tolerate POs before discharge.
.
She was also tested for influenza while here given some nasal 
congestion with the above symptoms. Pre test suspicion for this 
was low given that she did not have myalgias or other systemic 
symtpoms. The test was negative.
.
We also considered mild pancreatitis given an elevation in her 
lipase upon admission. This decreased on the second day of 
admission and remained normal and the patient tolerated POs well 
before discharge. Therefore, pancreatitis was thought to be 
unlikely.

#. Chronic Pain/Vascular Parkinsonism: Continued Amitriptyline.
.
#. HTN:  Continued Lisinopril, Lasix.
  
#. Dyslipidemia: Continued Simvastatin 
.  
#. s/p MI in ___: Continued aspirin, lisinopril and 
simvastatin. 
.  
#. Sick sinus syndrome: Followed by Dr. ___, pacemaker 
felt to be unnecessary given appropriate response of 
asymptomatic bradycardia to exertion.
.  
#. Chronic anemia:  Thought to be secondary to renal failure. 
Followed by Dr. ___ in Infectious ___, and treated with 
biweekly injections of Aranesp 200 micrograms. 
.
#  Chronic nasal congestion: Continued Fluticasone

 
Medications on Admission:
AMITRIPTYLINE - 20 mg Tablet QHS
FLUTICASONE - 50 mcg Spray, Suspension - 2 sprays each nostril 
qpm
FUROSEMIDE - 20 mg Tablet - 1 Tablet(s) by mouth qam
LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth qam
PANTOPRAZOLE [PROTONIX] - 40 mg Tablet, Delayed Release (E.C.) - 
one Tablet(s) by mouth once a day
POTASSIUM CHLORIDE - 10 mEq Tab Sust.Rel. Particle/Crystal - 1 
Tab(s) by mouth qam
SIMVASTATIN - 10 mg Tablet - 1 Tablet(s) by mouth once a day
ACETAMINOPHEN - 325 mg Tablet - 2 Tablet(s) by mouth twice a day 
as needed for neck pain avoid regular use
ASPIRIN - 81 mg Tablet, Delayed Release daily
DOCUSATE SODIUM - 400 mg Capsule daily
MULTIVITAMIN WITH IRON-MINERAL daily
___ ___ (laxative)

 
Discharge Medications:
1. amitriptyline 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed for sleep.  
2. fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
3. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
5. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
6. potassium chloride 10 mEq Capsule, Sustained Release Sig: One 
(1) Capsule, Sustained Release PO once a day.  
7. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO BID;prn as 
needed for pain, fever.  
9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. docusate sodium 100 mg Capsule Sig: Four (4) Capsule PO once 
a day.  
11. multivitamin,tx-minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
12. Zofran 4 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for nausea.
Disp:*2 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory 

 
Discharge Instructions:
Ms. ___,
It was a pleasure to take care of you in the hospital. You came 
in with nausea and vomiting and this subsided while you were in 
the hospital. We checked you for influenza and pancreatitis but 
both were negative. We think that you likely had a viral 
gastroenteritis.
.
We did not make any changes to your medications. You should make 
sure that you eat if you can and drink lots of fluids.
.
Please return to the emergency room if your symptoms worsen.
.
Please followup with Dr. ___ as listed below. 
 
Followup Instructions:
___